US07825150B2
1-[4-((1R,2S,3R)-1,2,3,4-Tetrahydroxy-butyl)-1H-imidazol-2-yl]-ethanone (18 g, 78.3 mmol) was suspended in dichloroethane (160 ml) and 2,2-dimethoxy propane (160 ml). 4-toluenesulfonic acid (3 g) was added and the mixture stirred at 70° C. for 18 hours. The reaction was diluted with dichloromethane and washed with water, 5% bicarbonate, brine and then dry loaded onto SiO2. Purification by flash chromatography (hexane/ethyl acetate) afforded 1-(4-((4S,4′R,5R)-2,2,2′,2′-tetramethyl-4,4′-bi(1,3-dioxolan)-5-yl)-1H-imidazol-2-yl)ethanone as a colorless oil (18.8 g, 60.6 mmol, 77%; M+H calc: 311.4, obs: 311.3).

reactant | 1-[4-((1R,2S,3R)-1,2,3,4-Tetrahydroxy-butyl)-1H-imidazol-2-yl]-ethanone | 78.3 mmol, 18 g | O[C@@H]([C@@H]([C@@H](CO)O)O)C=1N=C(NC1)C(C)=O | C9H14N2O5
reactant | 4-toluenesulfonic acid | 3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2,2-dimethoxy propane | 160 ml | COC(C)(C)OC | C5H12O2
solvent | dichloroethane | 160 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-((4S,4′R,5R)-2,2,2′,2′-tetramethyl-4,4′-bi(1,3-dioxolan)-5-yl)-1H-imidazol-2-yl)ethanone | CC1(O[C@@H]([C@H](O1)[C@@H]1OC(OC1)(C)C)C=1N=C(NC1)C(C)=O)C | C15H22N2O5
